Illustrative EEG passive input network -- NOT A HUMAN-USE SCHEMATIC
* 0 denotes local analog midpoint for small-signal AC, NOT protective earth.
* No ADS1299 silicon, input clamps, body-bias loop, or safety analysis included.
Vp skinp 0 AC 1
Vn skinn 0 AC 1
Rep skinp ep 10000
Cep skinp ep 1e-07
Ren skinn en 50000
Cen skinn en 1e-07
Rsp ep inp 10000
Rsn en inn 10000
Rip inp 0 1000000000
Rin inn 0 1000000000
Ccp inp 0 1e-10
Ccn inn 0 1e-10
Cd inp inn 1e-09
.control
set wr_singlescale
set wr_vecnames
set numdgt=15
ac dec 40 0.1 100000
let h = v(inp)-v(inn)
let hr = real(h)
let hi = imag(h)
wrdata ac.txt hr hi
quit
.endc
.end
